### ISSUE TITLE
`mdata` bug affecting interaction of `simp` and `match` 

### ISSUE THREAD

**Issue by semorrison** [leanprover/lean4#2173]
### Prerequisites

* [X] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean4/issues).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

Running `simp (config := {decide := false})` inside a branch of a `match` statement will often leave an unsolved goal `True`.
This behaviour has been hidden by the default `decide := true`, which subsequently closes the `True`.

### Steps to Reproduce

```lean
example : 0 = 0 := by
  simp (config := {decide := false}) -- Works fine.

example (n : Nat) : 0 = 0 := by
  match n with
  | 0 => simp (config := {decide := false}) -- Fails: unsolved goal `True`
  | _ => simp

example (n : Nat) : 0 = 0 := by
  match n with
  | 0 => simp (config := {decide := true}) -- this is the default, so masks the problem?
  | _ => simp
```

**Expected behavior:** 
All three examples to work.

**Actual behavior:** 
The second example fails in the `0` branch, with unsolved goal `True`.

@Kha says "this looks like an mdata bug. `pp.raw` + `trace_state` uncovers the difference."
```lean
⊢ Eq.{1} Nat (OfNat.ofNat.{0} Nat 0 (instOfNatNat 0)) (OfNat.ofNat.{0} Nat 0 (instOfNatNat 0))

n : Nat
⊢ [mdata noImplicitLambda:1 Eq.{1} Nat (OfNat.ofNat.{0} Nat 0 (instOfNatNat 0)) (OfNat.ofNat.{0} Nat 0 (instOfNatNat 0))]
```

**Reproduces how often:**

Always.

### Versions

Lean (version 4.0.0-nightly-2023-03-17, commit 8650804b025c, Release)

### Additional Information

Reported on [zulip](https://leanprover.zulipchat.com/#narrow/stream/270676-lean4/topic/simp.20fails.20to.20finish.20after.20reaching.20.60True.60.2C.20inside.20a.20.60match.60).

**Comment by gebner** [comment]
Here are some other related failures:
```lean
example : True := by
  have : True := ⟨⟩
  simp (config := {decide := false}) -- unsolved goals

example : True := by
  let x : True := ⟨⟩
  simp (config := {decide := false}) -- unsolved goals

example : True := by
  suffices True by simp (config := {decide := false}) -- unsolved goals
  constructor
```
